US08283482B2
Preparation of 16-methyloctadecanoic acid
To a four-necked 50 mL of flask equipped with a refluxing condenser tube, a 10 mL of dropping funnel, a magnetic stirrer and a temperature sensor, 15-bromopentadecanoic acid of 1.01 g (3.14 mmol) and 18-crown-6 of 823.3 mg (1.0 eq) were added and dried under reduced pressure. Under argon atmosphere, copper bromide (I) of 13.3 mg (0.03 eq) and anhydrous tetrahydrofuran of 6 mL were added to dissolve the materials. At room temperature, sec-butyl magnesium bromide of 7.85 mL (2.5 eq, 1.0M tetrahydrofuran solution) was added dropwise thereto over thirty minutes. After stirring for one hour, 5 mL of 6N aqueous sulfuric acid solution was added and the extraction was carried out by using 10 mL of hexane. After washing twice with 10 mL ion exchange water, the mixture was dried over magnesium sulfate. After the filtration, the crude product (0.84 g) was obtained by concentration under reduced pressure.

reactant | 15-bromopentadecanoic acid | BrCCCCCCCCCCCCCCC(=O)O | C15H29BrO2
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sec-butyl magnesium bromide | C(C)(CC)[Mg]Br
reactant | tetrahydrofuran | 1.0M, 2.5 eq | O1CCCC1 | C4H8O
reactant | sulfuric acid | 6N, 5 mL | S(O)(O)(=O)=O | H2O4S
product | 16-methyloctadecanoic acid | 0.84 g, yield was 95% | CC(CCCCCCCCCCCCCCC(=O)O)CC | C19H38O2
